US08058299B2
With a procedure similar to above, 1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidine-4-carboxylic acid was prepared from 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid 4-nitro-phenyl ester and piperidine-4-carboxylic acid ethyl ester. LCMS calcd for C29H29F3N4O5 (m/e) 570, obsd 571 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C29H23F3N4O6
reactant | piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCNCC1 | C8H15NO2
product | 1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidine-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)N1CCC(CC1)C(=O)O)C(F)(F)F | C29H29F3N4O5
